US04242515
3-Methyl-6-[3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-a]pyridine
A mixture of 2 g. of 2-chloro-5-[3-(trifluoromethyl)phenyl]pyridine and two equivalents of acetylhydrazine in n-butanol is heated at reflux for 48 hours to give the product of the Example as crystals, m.p. 185°-187° C.

reactant | 2-chloro-5-[3-(trifluoromethyl)phenyl]pyridine | ClC1=NC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F | C12H7ClF3N
reactant | acetylhydrazine | two equivalents | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-Methyl-6-[3-(trifluoromethyl)phenyl]-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C14H10F3N3
